US03983175
By using the same reaction vessel as used in Example 1, 10.45 g of prenyl chloride, 34.8 ml of acetone, 20.3 g of a 65 % aqueous caustic soda solution, 5 ml of n-decane and 0.264 g of lauryl trimethylammonium chloride were added into the vessel, and then the mixture was allowed to react for 12 hours at 30°C. with vigorous stirring. After the reaction was completed, 40 ml of water was added to the resultant solution to dissolve the sodium chloride. Methyl heptenone was produced as determined by using gas chromatography and the yield was 51 % calculated on the theoretical value.

reactant | prenyl chloride | 10.45 g | C(C=C(C)C)Cl | C5H9Cl
reactant | caustic soda | [OH-].[Na+]
reactant | n-decane | 5 ml | CCCCCCCCCC | C10H22
reactant | sodium chloride | [Cl-].[Na+]
catalyst | lauryl trimethylammonium chloride | 0.264 g | [Cl-].C(CCCCCCCCCCC)[N+](C)(C)C
solvent | water | 40 ml | O | H2O
solvent | acetone | 34.8 ml | CC(=O)C | C3H6O
product | Methyl heptenone | yield was 51 % | CCC(C=CCCC)=O | C8H14O
